US04579947
Triethylamine (13.8 g; 137 mmole) was slowly added to a mixture of 3-chloropropylamine hydrochloride (17.8 g; 137 mmole), 4-cyanophenyl isocyanate (19.7 g; 137 mmole), and methylene chloride (200 ml). The resulting solution was stirred until the mild exothermic reaction had subsided and the solvent was removed in vacuo. The product was dissolved in ether, washed with water, dried, and part of the ether removed. The colorless crystals which precipitated out were filtered and dried to give 1-(3-chloropropyl)-3-(4-cyanophenyl)urea (17.5 g; 54% yield). A small portion of the product was recrystallized from water/acetone to give pure product, m.p. 95°-97° C.

reactant | Triethylamine | 137 mmole, 13.8 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropylamine hydrochloride | 137 mmole, 17.8 g | Cl.ClCCCN
reactant | 4-cyanophenyl isocyanate | 137 mmole, 19.7 g | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-chloropropyl)-3-(4-cyanophenyl)urea | 17.5 g, 54% yield | ClCCCNC(=O)NC1=CC=C(C=C1)C#N | C11H12ClN3O
